US05082967
Ethyl 9-thia-12-oxatetradeoanoater
NaH (0.39g, 9.6 mmol) was washed with hexane and then suspended in dry THF (45 mL). 5-Ethoxypentane-1-thiol (8.7 mmol) in THF (8 mL) was added and stirred for 1 h at room temperature. Ethyl 8-iodooctanoate (2.4 g, 8.7 mmol) in THF (7 mL) was added and the mixture was refluxed for 6 h. After evaporation of the solvent, the residue was taken into ethyl acetate (150 mL). The organic phase was washed with water (2 ×50 mL), brine (50 mL), and dried (Na2SO4). The crude product was purified by column chromatography on silica gel with ethyl acetate:hexane (1:5) and subsequent Kugelrohr distillation to give the title compound, ethyl 9-thia-12-oxatetradecanoate; yield 52%; bp 118° C.-120° C./0.15 torr; NMR: 1.2 (3H, t, J=7 Hz), 1.25 (3H, t, J=7 Hz), 1.2-1.8 (10 H, m), 2.28 (2H, t, J=6.5 Hz), 2.55 (2H, t, J=7 Hz), 2.67 (2H, t, J=7 Hz), 3.44 (2H, t, J=7 Hz), 3.66 (2H, t, J=7 Hz), and 4.1 ppm (2H, q, J=7 Hz).

reactant | NaH | 9.6 mmol, 0.39g | [H-].[Na+]
reactant | 5-Ethoxypentane-1-thiol | 8.7 mmol | C(C)OCCCCCS | C7H16OS
reactant | Ethyl 8-iodooctanoate | 8.7 mmol, 2.4 g | ICCCCCCCC(=O)OCC | C10H19IO2
reactant | THF | 45 mL | C1CCOC1 | C4H8O
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | THF | 7 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | ethyl 9-thia-12-oxatetradecanoate | yield 52% | C(CCCCCCCSCCOCC)(=O)OCC | C14H28O3S
